### PR TITLE
22abc

### PR DESCRIPTION
**Pull request by Gua-YuchenWang**

### CODE REVIEW

File: src/chapter22/exercise01.lean [hunk 1]
```diff
@@ -1,15 +1,21 @@
+/-
+Copyright (c) 2022 Kevin Buzzard. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Kevin Buzzard
```
Comment (kbuzzard) [inline src/chapter22/exercise01.lean]: Please add your name to the list of authors.

File: src/chapter22/exercise01.lean [hunk 2]
```diff
@@ -35,76 +41,424 @@ begin
...
+lemma part_a_lub : is_lub Si 7 :=
 begin
-  sorry
+  rw is_lub,
+  rw is_least,
+  split,
+  rw upper_bounds,
+  intro t,
+  intro h,
+  cases h,
```
Comment (kbuzzard) [inline src/chapter22/exercise01.lean]: This is bad style. After `cases h` you have two goals so you need to need to start the next line with a `{ ` and then indent two spaces. Like this:

```
  cases h,
  { case one stuff here,
    more stuff, },
  { case two stuff here, 
    more stuff, },
```

But there are far more powerful tactics than `cases`. Instead of all this intro, cases, cases stuff you can do it all much more quickly with the "recursive cases" tactics `rcases` and `rintro`. For example, try replacing line 51 with `rintro t (h | h | h | h),`. You see that I manage to do about five of your lines all in one line. Now you have four goals, so your new solution (which will be shorter) will look like this:
```
rintro t (h | h | h | h),
{ goal one solved here, },
{ goal two solved here, },
{ goal three solved here, },
{ goal four solved here,
  maybe this one is a bit trickier, },
```

Actually I just noticed that you make this mistake even earlier: after the `split` on line 49 you should use two { } sections because you have two goals. There should always be only one goal displayed.

File: src/chapter22/exercise01.lean [hunk 3]
```diff
@@ -35,76 +41,424 @@ begin
...
--- Now the same for lower bounds.
+-- Si is bounded below.
 lemma part_a_lb : ∃ z : ℝ, z ∈ lower_bounds Si :=
 begin
-  sorry
+  use -2,
+  rw lower_bounds,
+  intro t,
+  intro h,
+  cases h,
```
Comment (kbuzzard) [inline src/chapter22/exercise01.lean:80]: Again you have two goals so you should learn to use the `{` brackets now (I don't stress this in the natural number game but for this repo I think we should use the correct formatting). Perhaps you can find a quicker proof of this one. Instead of `intro t`, why not try `rintro t (rfl | rfl | rfl | h),`? You might be surprised!

File: src/chapter22/exercise01.lean [hunk 4]
```diff
@@ -35,76 +41,424 @@ begin
...
--- right answer and prove it's a least upper bound!
--- If you proved there was no upper bound, just comment out
--- this part.
-lemma part_a_lub : is_lub Si 37 :=
+-- 7 is the least upper bound.
+lemma part_a_lub : is_lub Si 7 :=
 begin
-  sorry
+  rw is_lub,
+  rw is_least,
```
Comment (kbuzzard) [inline src/chapter22/exercise01.lean]:
```suggestion
  rw [is_lub, is_least],
```
It's quicker to do it this way, and also takes up one less line.

File: src/chapter22/exercise01.lean [hunk 5]
```diff
@@ -35,76 +41,424 @@ begin
...
--- if you proved there *was* a lower bound,
--- and prove it's a least upper bound!
--- If not, then delete this part.
-lemma part_a_glb : is_glb Si 37 :=
+-- -2 is the greatest lower bound.
+lemma part_a_glb : is_glb Si (-2) :=
 begin
-  sorry
+  rw is_glb,
+  rw is_greatest,
```
Comment (kbuzzard) [inline src/chapter22/exercise01.lean]:
```suggestion
  rw [is_glb, is_greatest],
```
is quicker.

File: src/chapter22/exercise01.lean [hunk 6]
```diff
@@ -35,76 +41,424 @@ begin
...
+  split,
```
Comment (kbuzzard) [inline src/chapter22/exercise01.lean:97]: Braces `{ }` when you have more than one goal.

File: src/chapter22/exercise01.lean [hunk 7]
```diff
@@ -35,76 +41,424 @@ begin
...
--- think it's not, then *disprove* it by putting `¬` in front of it.
-lemma part_b_ub : ∃ z : ℝ, z ∈ upper_bounds Sii :=
+-- Sii is not bounded above.
+lemma part_b_ub : ¬ ∃ z : ℝ, z ∈ upper_bounds Sii :=
 begin
-  sorry
+  rw not_exists,
+  intro n,
+  rw upper_bounds,
+  simp,
```
Comment (kbuzzard) [inline src/chapter22/exercise01.lean:130]: This is called a "non-terminal `simp`" and it's not good style. The problem is that the output of this `simp` call can change if more people add new `simp` lemmas in mathlib, and then your proof breaks. Can you replace `simp` first with `squeeze_simp` and then with the output of this tactic? (it's in blue and you can click on it).

File: src/chapter22/exercise01.lean [hunk 8]
```diff
@@ -35,76 +41,424 @@ begin
...
+  by_cases h: n ≤ 3,
```
Comment (kbuzzard) [inline src/chapter22/exercise01.lean:131]: Two goals so you need to use { }

File: src/chapter22/exercise01.lean [hunk 9]
```diff
@@ -35,76 +41,424 @@ begin
...
+  use 4,
+  split,
+  unfold Sii,
+  simp,
```
Comment (kbuzzard) [inline src/chapter22/exercise01.lean]: That's a non-terminal `simp`. Why not get automation to finish everything in one line? `  norm_num [real.norm_eq_abs, set.mem_set_of_eq, abs_of_pos],` seems to do it. Note that I got those names of lemmas by changing the `simp` to a `squeeze_simp`.

File: src/chapter22/exercise01.lean [hunk 10]
```diff
@@ -35,76 +41,424 @@ begin
...
+  norm_num,
+  rw abs_of_pos,
+  norm_num,
+  norm_num,
+  linarith,
+  use n+1,
+  split,
```
Comment (kbuzzard) [inline src/chapter22/exercise01.lean:142]: This is a bit annoying because now you have two goals so you should be using `{ }` braces, but the second goal is really easy, it's going to be a lemma in the library. For that second goal (n < n + 1) I used `library_search` to discover that it was called `lt_add_one n`, so instead of `split` you can do
`  refine ⟨_, lt_add_one n⟩,` and you still only have one goal.

File: src/chapter22/exercise01.lean [hunk 11]
```diff
@@ -35,76 +41,424 @@ begin
...
-  sorry
-end
 
+-- Si is bounded below.
 lemma part_b_lb : ∃ z : ℝ, z ∈ lower_bounds Sii :=
 begin
-  sorry
+  use -2,
+  rw lower_bounds,
+  simp,
```
Comment (kbuzzard) [inline src/chapter22/exercise01.lean:162]: Not only is this a non-terminal `simp`, it also doesn't do anything! It only changes something to something else which is *definitionally equal*, so you can just remove it!

File: src/chapter22/exercise01.lean [hunk 12]
```diff
@@ -35,76 +41,424 @@ begin
...
+  intro t,
+  intro h,
```
Comment (kbuzzard) [inline src/chapter22/exercise01.lean:164]:
```suggestion
  rintro t h,
```

File: src/chapter22/exercise01.lean [hunk 13]
```diff
@@ -35,76 +41,424 @@ begin
...
+  unfold Sii at h,
+  simp at h,
```
Comment (kbuzzard) [inline src/chapter22/exercise01.lean:166]: please remove the non-terminal `simp`.

File: src/chapter22/exercise01.lean [hunk 14]
```diff
@@ -35,76 +41,424 @@ begin
...
+  rw abs_of_neg at h,
+  linarith,
+  linarith,
+  linarith,
+  by_cases h2: t ≥ 3,
+  linarith,
+  rw abs_of_neg at h,
+  rw abs_of_nonneg at h,
+  linarith,
+  push_neg at h1,
```
Comment (kbuzzard) [inline src/chapter22/exercise01.lean:178]: Why did you have to do this `push_neg`? It's because you did `by_cases h1 : t < -7` so the second case was the annoying `¬t < -7`. If instead you had done `  obtain (h1 | h1) := lt_or_le t (-7),` then `h1` would have been in the nicer `-7 ≤ t` form.

File: src/chapter22/exercise01.lean [hunk 15]
```diff
@@ -35,76 +41,424 @@ begin
...
+  linarith,
+  linarith,
 end
 
-lemma part_b_glb : is_glb Sii 37 :=
+-- -2 is the greatest lower bound.
+lemma part_b_glb : is_glb Sii (-2) :=
```
Comment (kbuzzard) [inline src/chapter22/exercise01.lean:184]: Can you fix up the non-terminal simps and the lines where there is more than one goal?

File: src/chapter22/exercise01.lean [hunk 16]
```diff
@@ -35,76 +41,424 @@ begin
...
+  linarith,
+  rw ← abs_eq_self at p1,
+  rw p1 at l,
+  have p2: 0≤ real.sqrt 3,
+  exact real.sqrt_nonneg 3,
+  rw ← abs_eq_self at p2,
+  rw p2 at l,
+  linarith,
+  linarith,
+  linarith,
```
Comment (kbuzzard) [inline src/chapter22/exercise01.lean:285]: Take a look at how easy this can be if you use the right lemmas.
```
  { -- Let's first get h into a form where we can cancel
    have l1 : n * (n ^ 2) < n * 3,
    { convert h using 1; ring, },
    -- Now let's cancel the n
    rw mul_lt_mul_left p at l1,
    -- now let's change 3 to (sqrt 3)^2
    rw (show 3 = (real.sqrt 3) ^ 2, by norm_num) at l1,
    -- now use `sq_lt_sq` like you do
    rw sq_lt_sq at l1, 
    -- now remove the abses without creating any new goals
    rw [abs_of_nonneg p.le, abs_of_nonneg (real.sqrt_nonneg 3)] at l1,
    exact l1.le, -- dot notation is quicker than linarith.
  },
```
Do you understand my proof?

File: src/chapter22/exercise01.lean [hunk 17]
```diff
@@ -35,76 +41,424 @@ begin
...
+  push_neg at p,
+  have p2: 0≤ real.sqrt 3,
+  exact real.sqrt_nonneg 3,
+  linarith,
```
Comment (kbuzzard) [inline src/chapter22/exercise01.lean:289]: Suggestion:
```
exact le_trans p (real.sqrt_nonneg 3),
```
You don't have to use `linarith` to solve all linear inequalities! `le_trans` is just transitivity of <=, that's all you need.

**Review by kbuzzard — COMMENTED** [review]
This is very good work Yuchen! I have made lots of stylistic comments about your code. You have learnt how to use Lean to solve undergraduate level problems involving the real numbers and my next goal is to show you how to be a better programmer. Modify your code according to my suggestions, fixing up the non-terminal simps and adding braces where necessary, and push again to the branch. I'll then review the final two proofs (which I didn't look at) and we can proceed from there. Thanks a lot!
